US07390923B2
(2S)-3-(4-Acetylamino-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide was prepared according to the method B as described in Example 3e starting from 4-acetylamino-3-fluorophenol and N-[3-methyl-4-(nitro)phenyl]-(2R)-3-bromo-2-hydroxy-2-methylpropanamide. 1H NMR (DMSO-d6): 1.42 (3H, s), 2.02 (3H, s), 2.53 (3H, s), 3.97 (1H, d, J=9.7 Hz), 4.21 (1H, d, J=9.7 Hz), 6.23 (1H, bs), 6.72 (1H, m), 6.90 (1H, m), 7.56 (1H, m), 7.88 (1H, dd, J=9.0 Hz and 2.2 Hz), 7.93 (1H, d, J=2.2 Hz), 8.03 (1H, d, J=9.0 Hz), 9.51 (1H, s), 10.15 (1H, bs).

reactant | 4-acetylamino-3-fluorophenol | C(C)(=O)NC1=C(C=C(C=C1)O)F | C8H8FNO2
reactant | N-[3-methyl-4-(nitro)phenyl]-(2R)-3-bromo-2-hydroxy-2-methylpropanamide | CC=1C=C(C=CC1[N+](=O)[O-])NC([C@@](CBr)(C)O)=O | C11H13BrN2O4
product | (2S)-3-(4-Acetylamino-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(C)(=O)NC1=C(C=C(OC[C@](C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)F | C19H20FN3O6
